US07294631B2
1.5 4-Amino-4-(2-amino-ethyl)-piperidine-1-carboxylic acid ethyl ester hydrochloride (2:1)
To a solution of 3.01 g (9.56 mmol) of 4-(2-amino-ethyl)-4-tert-butoxycarbonylamino-piperidine-1-carboxylic acid ethyl ester in 19 ml of isopropanol was added 8 ml of a solution of hydrochloric acid (5.6 N) in isopropanol and the resulting solution was stirred at room temperature for 3 h. The mixture was cooled and diethyl ether was added. The resulting precipitate was filtered. The product was dried to give 2.49 g of pure compound as a white solid.

reactant | 4-(2-amino-ethyl)-4-tert-butoxycarbonylamino-piperidine-1-carboxylic acid ethyl ester | 9.56 mmol, 3.01 g | C(C)OC(=O)N1CCC(CC1)(NC(=O)OC(C)(C)C)CCN | C15H29N3O4
reactant | hydrochloric acid | 5.6 N | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | isopropanol | 19 ml | C(C)(C)O | C3H8O
product | 4-Amino-4-(2-amino-ethyl)-piperidine-1-carboxylic acid ethyl ester hydrochloride | 2.49 g | Cl.C(C)OC(=O)N1CCC(CC1)(CCN)N | InChI=1S/C10H21N3O2.ClH/c1-2-15-9(14)13-7-4-10(12,3-6-11)5-8-13;/h2-8,11-12H2,1H3;1H
